US07807709B2
a. Benzyl-cyclopropyl-amine
The title compound is prepared analogously as described for benzyl-cyclopropylmethylamine. TLC, Rf (CH2Cl2/MeOH 95:5)=0.1, MS (LC-MS): 148.2 [M+H]+.

reactant | benzyl-cyclopropylmethylamine | C(C1=CC=CC=C1)NCC1CC1 | C11H15N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | Benzyl-cyclopropyl-amine | C(C1=CC=CC=C1)NC1CC1 | C10H13N
